US05646310
A mixture of 1.00 g of ethyl 2,2-bisfluoromethyl-6-iodo-2H-1-benzopyran-4-carboxylate, 0.84 g of potassium trifluoroacetate, 1.18 g of cuprous iodide, 4 ml of toluene and 10 ml of N,N-dimethylformamide was heated with stirring at 150° C. for 5.5 hours in a nitrogen gas atmosphere while removing toluene. The reaction mixture was added to a mixed solution of 2N hydrochloric acid and ethyl acetate, and an insoluble material was separated by filtration using celite. The organic layer was separated from the filtrate, and the aqueous layer was extracted with ethyl acetate. The resulting organic layers were combined, washed with a brine, dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (an eluting solvent, ethyl acetate:hexane =10:1) to obtain 0.51 g of ethyl 2,2-bisfluoromethyl-6-trifluoromethyl-2H-1-benzopyran-4-carboxylate as an oily substance.

reactant | ethyl 2,2-bisfluoromethyl-6-iodo-2H-1-benzopyran-4-carboxylate | 1.00 g | FCC1(OC2=C(C(=C1)C(=O)OCC)C=C(C=C2)I)CF | C14H13F2IO3
reactant | potassium trifluoroacetate | 0.84 g | FC(C(=O)[O-])(F)F.[K+]
reactant | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2,2-bisfluoromethyl-6-trifluoromethyl-2H-1-benzopyran-4-carboxylate | 0.51 g | FCC1(OC2=C(C(=C1)C(=O)OCC)C=C(C=C2)C(F)(F)F)CF | C15H13F5O3
